US07326732B2
(i) 5-(4-Chloro-phenyl)-furan-2-carboxylic acid (145)
5-Bromo-2-furoic acid (1 g, 5.25 mmol) was coupled to 4-chloro-phenylboronic acid (819 mg, 5.23 mmol) acid using Method F to give the title compound.

reactant | 5-Bromo-2-furoic acid | 5.25 mmol, 1 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | 4-chloro-phenylboronic acid | 5.23 mmol, 819 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 5-(4-Chloro-phenyl)-furan-2-carboxylic acid | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7ClO3
